US05998433
c) Synthesis of N,N-dimethyl-[5-(4-phenethylbenzenesulfonyl)-4,5,6,7-tetrahydrofuro(3,2-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[5-(4-phenethylbenzenesulfonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine 0.171 g was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. This mixture was concentrated; the resulting solid was washed with diethyl ether to yield the desired product.

reactant | N,N-Dimethyl-[5-(4-phenethylbenzenesulfonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine | 0.171 g | CN(C)CC1=CC=2CN(CCC2O1)S(=O)(=O)C1=CC=C(C=C1)CCC1=CC=CC=C1 | C24H28N2O3S
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | N,N-dimethyl-[5-(4-phenethylbenzenesulfonyl)-4,5,6,7-tetrahydrofuro(3,2-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC=2CN(CCC2O1)S(=O)(=O)C1=CC=C(C=C1)CCC1=CC=CC=C1 | InChI=1S/C24H28N2O3S.ClH/c1-25(2)18-22-16-21-17-26(15-14-24(21)29-22)30(27,28)23-12-10-20(11-13-23)9-8-19-6-4-3-5-7-19;/h3-7,10-13,16H,8-9,14-15,17-18H2,1-2H3;1H
